US07598391B2
1,1-Dicyclohexyl-3-[5-(4-methanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (50 mg, 0.15 mmol), 4-methanesulfonyl-piperazine hydrochloride (45 mg, 0.23 mmol) and sodium triacetoxyborohydride (40 mg, 0.19 mmol) to afford 28 mg (38%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.15 mmol, 50 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 4-methanesulfonyl-piperazine hydrochloride | 0.23 mmol, 45 mg | Cl.CS(=O)(=O)N1CCNCC1
reactant | sodium triacetoxyborohydride | 0.19 mmol, 40 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(4-methanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea | 28 mg, 38% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(=O)(=O)C)C1CCCCC1 | C22H37N5O3S2
